US09302991B2
<Step-2>: N-(1-(5-fluoro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-2-isobutyramidopyrimidine-4-carboxamide (Example-209, single enantiomer)
The title compound is prepared from 2-amino-N-(1-(5-fluoro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide (20 mg, 0.06 mmol, Step-1, single enantiomer) and isobutyryl chloride (120 mg, 1.1 mmol) according to the procedure similar to that described in Step-2 of Example 8.

reactant | 2-amino-N-(1-(5-fluoro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide | 0.06 mmol, 20 mg | NC1=NC=CC(=N1)C(=O)NC(C)C=1C=NC(=C(C1)F)OCC(F)(F)F | C14H13F4N5O2
reactant | isobutyryl chloride | 1.1 mmol, 120 mg | C(C(C)C)(=O)Cl | C4H7ClO
product | N-(1-(5-fluoro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-2-isobutyramidopyrimidine-4-carboxamide | FC=1C=C(C=NC1OCC(F)(F)F)C(C)NC(=O)C1=NC(=NC=C1)NC(C(C)C)=O | C18H19F4N5O3
